US05932743
1-Ethoxycarbonylmethyl-3-(2-methoxycarbonyl-cyclopent-1-enyl)-2-phenyl-1H-indole-6-carboxylic Acid
To a suspension of 3-(2-methoxycarbonyl-cyclopent-1-enyl)-2-phenyl-1H-indole-6-carboxylic acid on Wang resin (100 mg; compound 7-3, prepared according to the is procedure outlined in Example 7) in dimethylformamide (1.5 mL) was added sodium hydride (60% in mineral oil; 20 mg) and the mixture was stirred at room temperature for 30 min. Ethyl bromoacetate (0.1 mL) was added and the mixture was stirred for 3 h. The mixture was filtered, washed with water (1×1.5 mL), tetrahydrofuran (2×1.5 mL), dichloromethane (2×1.5 mL), and dried. The product was cleaved from the resin by treatment with 1:1 trifluoroacetic acid/dichloromethane for 1 h; 1H NMR (DMSO-d6) δ 1.13 (t, J=7.1 Hz, 3 H), 1.80 (m, 2 H), 2.50 (m, 2 H), 2.63 (m, 2 H), 3.33 (s, 3 H), 4.09 (q, J=7.1 Hz, 7.30 (m, 2 H), 7.39 (d, J=8.5 Hz, 1 H), 7.48 (m, 3 H), 7.71 (d, J=7.2 Hz, 1 H), 8.11 (s, 1 H).

reactant | 3-(2-methoxycarbonyl-cyclopent-1-enyl)-2-phenyl-1H-indole-6-carboxylic acid | COC(=O)C1=C(CCC1)C1=C(NC2=CC(=CC=C12)C(=O)O)C1=CC=CC=C1 | C22H19NO4
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 0.1 mL | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-Ethoxycarbonylmethyl-3-(2-methoxycarbonyl-cyclopent-1-enyl)-2-phenyl-1H-indole-6-carboxylic Acid | C(C)OC(=O)CN1C(=C(C2=CC=C(C=C12)C(=O)O)C1=C(CCC1)C(=O)OC)C1=CC=CC=C1 | C26H25NO6
